data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-CC_2-c1ccc2ccccc2c1_3-c1c(Cl)cc(Cl)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(CC)(=O)(c1ccc2ccccc2c1)","C(c1c(Cl)cc(Cl)cc1)(=O)OO"],"products_smiles": ["C(CC)(=O)Oc1ccc2ccccc2c1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=[OH+])c1ccc2ccccc2c1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)([OH])(OOC(=O)c1c(Cl)cc(Cl)cc1)c1ccc2ccccc2c1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(=[OH+])Oc1ccc2ccccc2c1","rationale": "A 1,2-shift occurs from the more migratory c1ccc2ccccc2c1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=O)Oc1ccc2ccccc2c1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-238_1-c2ccc(N(=O)=O)cc2_2-C(C)(C)C_3-C(C)(C)C_4-C2CCCCC2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccc(N(=O)=O)cc2C(=O)O","C(C)(C)CN=C=NC2CCCCC2","C(C)(C)CO","CN(C)c1ccncc1"],"products_smiles": ["C(C)(C)COC(=O)c2ccc(N(=O)=O)cc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)OC(=[NH+]C(C)(C)C)NC2CCCCC2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OC(C)(C)C)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)COC(=O)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
